US04107319
S-Methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]isothiourea hydriodide
A mixture of N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiourea (2.29 g) and methyl iodide (1.56 g) in acetone (45 ml) containing methanol (5 ml) was left at room temperature for 18 hours. Concentration followed by recrystallisation from isopropyl alcohol-petroleum ether (b.p. 60°/80°) gave the title compound (2.3 g) m.p. 128°-131°. (Found: C, 28.8; H, 4.5; N, 14.8; S, 17.5; I, 33.8; C9H16N4S2 requires: C, 29.0; H, 4.6; N, 15.1; S, 17.2; I, 34.1%).

reactant | N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiourea | 2.29 g | CC1=C(N=CN1)CSCCNC(=S)N | C8H14N4S2
reactant | methyl iodide | 1.56 g | CI | CH3I
reactant | methanol | 5 ml | CO | CH4O
solvent | acetone | 45 ml | CC(=O)C | C3H6O
product | S-Methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]isothiourea hydriodide | 2.3 g | I.CSC(NCCSCC=1N=CNC1C)=N | InChI=1S/C9H16N4S2.HI/c1-7-8(13-6-12-7)5-15-4-3-11-9(10)14-2;/h6H,3-5H2,1-2H3,(H2,10,11)(H,12,13);1H
